US05843957
Preparation of N-[1-butyl-4-{3-(3-dimethylaminopropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a suspension of N-{ 1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl}-N'-(2,6-diisopropylphenyl)urea (200 mg, 0.4 mmol), potassium carbonate (166 mg, 1.2 mmol), and sodium iodide (5 mg) in DMF (10 ml) was added 3-dimethylaminopropyl chloride hydrochloride (63 mg) at room temperature, and the mixture was stirred at 60°-70° C. for 10 hours. After allowed to stand for cooling, the mixture was poured into water, extracted with ethyl acetate, washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, and purified by silica gel column chromatography (10% methanol in chloroform) to give the title compound (88 mg, 0.15 mmol).

reactant | N-{ 1-butyl-4-(3-hydroxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl}-N'-(2,6-diisopropylphenyl)urea | 0.4 mmol, 200 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C31H36N4O3
reactant | potassium carbonate | 1.2 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5 mg | [I-].[Na+]
reactant | 3-dimethylaminopropyl chloride hydrochloride | 63 mg | Cl.CN(CCCCl)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-butyl-4-{3-(3-dimethylaminopropoxy)phenyl}-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.15 mmol, 88 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCN(C)C)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O | C36H47N5O3
